US08242104B2
A mixture of 5-bromo-2-(1H-imidazol-2-yl)phenol (0.9 g, 4 mmol), 1,2-dibromoethane (1.3 mL, 15 mmol) and cesium carbonate (4.9 g, 15 mmol) in DMF (20 mL) was heated to 90° C. for 12 h. The mixture was partitioned between water and ethyl acetate. The organic layer was washed with water, brine and dried over MgSO4 and concentrated to give 9-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (0.8 g).

reactant | 5-bromo-2-(1H-imidazol-2-yl)phenol | 4 mmol, 0.9 g | BrC=1C=CC(=C(C1)O)C=1NC=CN1 | C9H7BrN2O
reactant | 1,2-dibromoethane | 15 mmol, 1.3 mL | BrCCBr | C2H4Br2
reactant | cesium carbonate | 15 mmol, 4.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 9-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 0.8 g | BrC1=CC2=C(C=3N(CCO2)C=CN3)C=C1 | C11H9BrN2O
